US04496755
653 mg (1.8 mmols) of (-)-1-(6-methoxy-2-naphthyl)-2-(ethoxycarbonyl)amino-1-propanone dimethyl acetal and 5 ml of a 30% aqueous potassium hydroxide solution were heated at reflux in 50 ml of methanol for 5 days. After adding 20 ml of water, the mixture was extracted with ethyl acetate (20 ml×3), and the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography (Florisil, ethyl acetate) to obtain 300 mg of (+)-1-(6-methoxy-2-naphthyl)-2-amino-1-propanone dimethyl acetal as colorless crystals having a melting point of 84°-86° C. Yield, 58%.

reactant | (-)-1-(6-methoxy-2-naphthyl)-2-(ethoxycarbonyl)amino-1-propanone dimethyl acetal | 1.8 mmols, 653 mg | COC(C(C)NC(=O)OCC)(C1=CC2=CC=C(C=C2C=C1)OC)OC | C19H25NO5
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | (+)-1-(6-methoxy-2-naphthyl)-2-amino-1-propanone dimethyl acetal | 300 mg | COC(C(C)N)(C1=CC2=CC=C(C=C2C=C1)OC)OC | C16H21NO3
